US06916922B2
Acylation to 2-Chloro-N-(1,2,3,4-Tetrahydrocyclopenta[b]Indol-5-ylmethyl)Acetamide
A solution of 1,2,3,4-tetrahydrocyclopenta[b]indol-5-ylmethylamine (100 mg, 0.538 mmol) and pyridine (0.1 mL, 1.23 mmol) in CH2Cl2 (2 mL) was cooled to 0-5° C. in an ice-bath under Ar before chloroacetyl chloride (62 μL, 0.59 mmol) was added. After 1 h, the ice-bath was removed to allow the reaction to warm to rt. After an additional 12 h, H2O (3 mL) and CHCl3 (3 mL) were added. The two layers were separated. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. Purification on SiO2, eluted with (40:1) CHCl3:CH3OH gave 80 mg (57%) of the title compound as a yellow solid.

reactant | 1,2,3,4-tetrahydrocyclopenta[b]indol-5-ylmethylamine | 0.538 mmol, 100 mg | C1CCC=2NC=3C(=CC=CC3C21)CN | C12H14N2
reactant | pyridine | 1.23 mmol, 0.1 mL | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 0.59 mmol, 62 μL | ClCC(=O)Cl | C2H2Cl2O
reactant | H2O | 3 mL | O | H2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-N-(1,2,3,4-Tetrahydrocyclopenta[b]Indol-5-ylmethyl)Acetamide | 80 mg, 57% | ClCC(=O)NCC1=CC=CC=2C3=C(NC12)CCC3 | C14H15ClN2O
